US09428498B2
Methyl 6-(4-{[(tert-butoxy)carbonyl]amino}piperidin-1-yl)pyridine-3-carboxylate
Methyl 6-chloropyridine-3-carboxylate (1.00 g, 5.83 mmol) and 4-(N-Boc-amino)piperidine (2.33 g, 11.7 mmol) were dissolved in DMF (10 mL) and the reaction mixture was heated using a microwave reactor at 100° C. for 50 min. DIPEA (1.22 mL, 6.99 mmol) was added and the reaction mixture was heated using a microwave reactor at 100° C. for 30 min. The reaction mixture was diluted with DCM (50 mL), washed with sat aq NaHCO3 (2×50 mL), dried (MgSO4) and concentrated in vacuo. The residue was purified by column chromatography to give the title compound (1.66 g, 84.9%) as an off-white solid. LCMS (ES+): 336.1 [MH]+. HPLC: Rt 4.73 min, 98.2% purity.

reactant | Methyl 6-chloropyridine-3-carboxylate | 5.83 mmol, 1.00 g | ClC1=CC=C(C=N1)C(=O)OC | C7H6ClNO2
reactant | 4-(N-Boc-amino)piperidine | 11.7 mmol, 2.33 g | C(=O)(OC(C)(C)C)NC1CCNCC1 | C10H20N2O2
reactant | DIPEA | 6.99 mmol, 1.22 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | Methyl 6-(4-{[(tert-butoxy)carbonyl]amino}piperidin-1-yl)pyridine-3-carboxylate | 1.66 g, 84.9% | C(C)(C)(C)OC(=O)NC1CCN(CC1)C1=CC=C(C=N1)C(=O)OC | C17H25N3O4
